US04087539
A solution of 300 mg. of 5-(2-thenoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid in 5 ml. of isoamyl alcohol is saturated with hydrogen chloride. After 24 hours, the excess alcohol is distilled off in vacuum and the residue purified by chromatography on alumina to yield isoamyl 5-(2-thenoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate.

reactant | 5-(2-thenoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylic acid | C1(=CC=CS1)C(=O)C1=CC=C2N1CCC2C(=O)O | C13H11NO3S
reactant | hydrogen chloride | Cl | ClH
solvent | isoamyl alcohol | C(CC(C)C)O | C5H12O
product | isoamyl 5-(2-thenoyl)-1,2-dihydro-3H-pyrrolo[1,2-a]pyrrole-1-carboxylate | C1(=CC=CS1)C(=O)C1=CC=C2N1CCC2C(=O)OCCC(C)C | C18H21NO3S
